US07125901B2
A mixture of 2-(acetylamino)-4-(2-{4-[(tert-butoxycarbonyl)amino]phenyl}ethyl)-1,3-thiazole-5-carboxylic acid (100 mg), (4-nitrobenzyl)amine hydrochloride (46.5 mg), 1-hydroxybenzotriazole (36.7 mg) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (40.2 mg) in DMF (2 ml) was stirred at ambient temperature for 73 hours. The reaction mixture was poured into saturated NaHCO3, and extracted with CHCl3. The organic layer was washed with water and brine, dried over anhydrous MgSO4, and concentrated in vacuo to give tert-butyl{4-[2-(2-(acetylamino)-5-{[(4-nitrobenzyl)amino]carbonyl}-1,3-thiazol-4-yl)ethyl]phenyl}carbamate (123.7 mg) as a pale yellow solid.

reactant | 2-(acetylamino)-4-(2-{4-[(tert-butoxycarbonyl)amino]phenyl}ethyl)-1,3-thiazole-5-carboxylic acid | 100 mg | C(C)(=O)NC=1SC(=C(N1)CCC1=CC=C(C=C1)NC(=O)OC(C)(C)C)C(=O)O | C19H23N3O5S
reactant | (4-nitrobenzyl)amine hydrochloride | 46.5 mg | Cl.[N+](=O)([O-])C1=CC=C(CN)C=C1
reactant | 1-hydroxybenzotriazole | 36.7 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 40.2 mg | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | tert-butyl{4-[2-(2-(acetylamino)-5-{[(4-nitrobenzyl)amino]carbonyl}-1,3-thiazol-4-yl)ethyl]phenyl}carbamate | 123.7 mg | C(C)(C)(C)OC(NC1=CC=C(C=C1)CCC=1N=C(SC1C(=O)NCC1=CC=C(C=C1)[N+](=O)[O-])NC(C)=O)=O | C26H29N5O6S
